US04290972
2.66 g (10 millimole) of N-carbobenzoxy-L-asparagine (Journal of Organic Chemistry, 26, 3356-3360 (1961)) was admixed with 30 ml of dry pyridine and 1.2 ml (12 millimole) of acetic anhydride, and the admixture obtained was stirred at a temperature from 20° to 25° C. for one hour. The reaction solution was then concentrated to a syrup by distilling off pyridine under reduced pressure, and the residue was diluted with 50 ml of 1 N hydrochloric acid. The product deposited as colorless needles was collected by filtration, washed with cold water and dried to afford 2.05 g of N-carbobenzoxy-β-cyano-L-alanine. Yield 83%. This product was found to have the following properties:

reactant | N-carbobenzoxy-L-asparagine | 10 millimole, 2.66 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
reactant | acetic anhydride | 12 millimole, 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-carbobenzoxy-β-cyano-L-alanine | 2.05 g, Yield 83% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC#N)C(=O)O | C12H12N2O4
